US04205170
The mixture of 83 mg of ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]thiepin-3-yl)-propionate, 0.8 ml of ethanol, 120 mg of potassium hydroxide and 0.8 ml of water was stirred at room temperature for 2 hours. The solvent was distilled off to obtain the residue, which was acidified with hydrochloric acid and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain brown oil, which was chromatographed over silica gel, eluted with chloroform to give 59 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]thiepin-3-yl)-propionic acid as pale yellow oil. The result in IR spectrum thereof is in accordance with that of the compound obtained in Example 9.

reactant | ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]thiepin-3-yl)-propionate | 83 mg | O=C1C2=C(SC3=C(C1)C=CC=C3)C=C(C=C2)C(C(=O)OCC)C | C19H18O3S
reactant | ethanol | 0.8 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 120 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 0.8 ml | O | H2O
product | 2-(10,11-dihydro-11-oxo dibenzo[b,f]thiepin-3-yl)-propionic acid | 59 mg | O=C1C2=C(SC3=C(C1)C=CC=C3)C=C(C=C2)C(C(=O)O)C | C17H14O3S
